US08247403B2
(2) 8-(piperidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A solution of tert-butyl 8-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (280 mg, 0.843 mmol) in 4N hydrogen chloride-ethyl acetate (6 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (210 mg, 81.7%) as a solid.

reactant | tert-butyl 8-(piperidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.843 mmol, 280 mg | N1(CCCCC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 6 ml | C(C)(=O)OCC.Cl
product | 8-(piperidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 210 mg, 81.7% | Cl.Cl.N1(CCCCC1)C1=CC2=C(CNCCO2)C=C1 | InChI=1S/C14H20N2O.2ClH/c1-2-7-16(8-3-1)13-5-4-12-11-15-6-9-17-14(12)10-13;;/h4-5,10,15H,1-3,6-9,11H2;2*1H
